US08466114B2
To a stirred solution of 6-[2-bromo-5-((3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-chroman (300 mg, 0.363 mmol) in toluene (1.6 mL) was added tricyclohexylphosphine (10 mg), potassium phosphate (346 mg, 1.63 mmol), water (81 μl), cyclopropylboronic acid (93 mg, 1.09 mmol). The reaction mixture was degassed for 45 min then palladium (II) acetate (4 mg) was added. After heating overnight at 100° C., the reaction mixture was cooled to room temperature and was filtered through celite. The celite was washed with an additional ethyl acetate (30 mL) and the organic layer of the filtrate was separated and washed with water (20 mL) followed by brine (20 mL), then dried over sodium sulfate and concentrated to give crude product which was further purified by column chromatography to furnish 6-[2-cyclopropyl-5-((3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-chroman (250 mg).

reactant | 6-[2-bromo-5-((3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-chroman | 0.363 mmol, 300 mg | BrC1=C(CC=2C=C3CCCOC3=CC2)C=C(C=C1)C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C50H49BrO6
reactant | tricyclohexylphosphine | 10 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 1.63 mmol, 346 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | cyclopropylboronic acid | 1.09 mmol, 93 mg | C1(CC1)B(O)O | C3H7BO2
solvent | toluene | 1.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 81 μl | O | H2O
product | 6-[2-cyclopropyl-5-((3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-chroman | 250 mg | C1(CC1)C1=C(CC=2C=C3CCCOC3=CC2)C=C(C=C1)C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C53H54O6
